US07875610B2
Trans-(4-{4-[2-(4-amino-cyclohexyl)-ethyl]-piperazin-1-yl}-5,6-dichloro-pyrimidin-2-yl)-methyl-amine trihydrochloride (Intermediate Compound 4a)
4.88 g (10 mmol) trans-(4-{2-[4-(5,6-dichloro-2-methylamino-pyrimidin-4-yl)-piperazin-1-yl]-ethyl}-cyclohexyl)-carbamic acid tert-butyl ester was deprotected at 10° C. using 100 ml ethylacetate saturated with gaseous hydrochloric acid. After 4 hours the precipitate was filtered giving the title compound (4.9 g, 99%), melting at 325-326° C.

reactant | trans-(4-{2-[4-(5,6-dichloro-2-methylamino-pyrimidin-4-yl)-piperazin-1-yl]-ethyl}-cyclohexyl)-carbamic acid tert-butyl ester | 10 mmol, 4.88 g | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)CCN1CCN(CC1)C1=NC(=NC(=C1Cl)Cl)NC)=O | C22H36Cl2N6O2
reactant | hydrochloric acid | Cl | ClH
solvent | ethylacetate | 100 ml | C(C)OC(C)=O | C4H8O2
product | Trans-(4-{4-[2-(4-amino-cyclohexyl)-ethyl]-piperazin-1-yl}-5,6-dichloro-pyrimidin-2-yl)-methyl-amine trihydrochloride | 4.9 g, 99% | Cl.Cl.Cl.N[C@@H]1CC[C@H](CC1)CCN1CCN(CC1)C1=NC(=NC(=C1Cl)Cl)NC | InChI=1S/C17H28Cl2N6.3ClH/c1-21-17-22-15(19)14(18)16(23-17)25-10-8-24(9-11-25)7-6-12-2-4-13(20)5-3-12;;;/h12-13H,2-11,20H2,1H3,(H,21,22,23);3*1H/t12-,13-;;;
